US04219660
Preparation of 3-methyl-4-nitro-2-butene-1-ol-4-chlorophenylcarbamate
To 0.1 Mol of 4-nitro-3-methyl-2-butenol was added 0.1 Mol of melted p-chlorophenylisocyanate. The reaction mixture was allowed to stand at room temperature for several hours, before it was dissolved in hot benzene. After crystallizing overnight a solid by-product was filtered off and the benzene was evaporated. The residue was purified by dissolving in a hot hexane-benzene mixture, decanting, while hot, from an insoluble oil, followed by crystallization in a ice bath. The product was obtained as orange crystals, m.p. 79°-81°.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | p-chlorophenylisocyanate | 0.1 Mol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-nitro-2-butene-1-ol 4-chlorophenylcarbamate | CC(=CCO)C[N+](=O)[O-].ClC1=CC=C(C=C1)NC([O-])=O | InChI=1S/C7H6ClNO2.C5H9NO3/c8-5-1-3-6(4-2-5)9-7(10)11;1-5(2-3-7)4-6(8)9/h1-4,9H,(H,10,11);2,7H,3-4H2,1H3/p-1
